US20010001799A1
4.2 g of hexamethylenetetramine were cautiously added to 1.5 g of 2-methyl-4-propylphenol in 11 ml of trifluoroacetic acid and the mixture was heated for 5 hrs. to 120° C. After the addition of 11 ml of 1N hydrochloric acid the mixture was stirred for 1 hr. at 107° C. The mixture was cooled to room temperature, diluted with ethyl acetate and washed in sequence with water, dilute sodium hydrogen carbonate solution, water and sodium chloride solution. Evaporation of the solution and chromatography on silica gel with hexane-toluene gave 2-hydroxy-3-methyl-5-propyl-benzaldehyde. MS: 178 (M)+.

reactant | hexamethylenetetramine | 4.2 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2-methyl-4-propylphenol | 1.5 g | CC1=C(C=CC(=C1)CCC)O | C10H14O
reactant | hydrochloric acid | 1N, 11 ml | Cl | ClH
reactant | trifluoroacetic acid | 11 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-3-methyl-5-propyl-benzaldehyde | OC1=C(C=O)C=C(C=C1C)CCC | C11H14O2
